US04480100
[2-[(3-Amino-2-pyridinyl)amino]phenyl](3-fluorophenyl)methanone
Under an atmosphere of nitrogen, 30 g of titanium trichloride was added portionwise (cautiously) with stirring to 200 ml of ice. The resulting solution was added all at once to a stirred solution of 10.0 g (0.0297 mole) of (3-fluorophenyl)[2-[(3-nitro-2-pyridinyl)amino]phenyl]methanone in 150 ml of acetic acid: ethanol (1:1) and 150 ml of acetic acid: water (1:1). After 30 min stirring, the reaction mixture was poured into one liter of water. The mixture was filtered and the resulting filter-cake was suspended in 100 ml of water. The mixture was again filtered and the filter-cake (10.0 g) was partially dissolved in 100 ml of hot methanol. The solution was basified with 25 ml of concentrated ammonium hydroxide, stirred for an additional 15 min and then diluted with 500 ml of water. The mixture was extracted three times with 75 ml portions of methylene chloride. The combined methylene chloride extracts were washed with 50 ml of water, dried over sodium sulfate and concentrated in vacuo. The residue (6.9 g) was twice recrystallized, treating once with charcoal, from ethyl acetate-isopropyl ether to give 4.5 g (49%) of a dark gold solid, m.p. 135°-137° C.

reactant | (3-fluorophenyl)[2-[(3-nitro-2-pyridinyl)amino]phenyl]methanone | 0.0297 mole, 10.0 g | FC=1C=C(C=CC1)C(=O)C1=C(C=CC=C1)NC1=NC=CC=C1[N+](=O)[O-] | C18H12FN3O3
reactant | water | one liter | O | H2O
solvent | acetic acid ethanol | 150 ml | C(C)(=O)O.C(C)O
solvent | acetic acid water | 150 ml | C(C)(=O)O.O
catalyst | titanium trichloride | 30 g | [Cl-].[Cl-].[Cl-].[Ti+3]
product | [2-[(3-Amino-2-pyridinyl)amino]phenyl](3-fluorophenyl)methanone | 4.5 g, 49% | NC=1C(=NC=CC1)NC1=C(C=CC=C1)C(=O)C1=CC(=CC=C1)F | C18H14FN3O
